US04229438
Production of pGlu-Ala-Lys-Ser-Gln-Gly-(D)-Leu-Ser-Asn-OH
450 mg of pGlu-Ala-Lys(Boc)-Ser-Gln-Gly-(D)-Leu-Ser-Asn-OBut is treated with 5 ml of trifluoroacetic acid at room temperature for 40 minutes and the reaction product is purified as in Example 1-(VIII). Yield 260 mg (58%); [α]D23 -40.0° (c=0.31, H2O); Rf4 (Avicel)=0.23, amino acid analysis (hydrolyzed with HCl); Lys, 0.95(1); Asp, 0.92(1); Ser, 1.79(2); Glu, 2.05(2); Gly, 1.01(1); Ala, 1.05(1); Leu, 1.05(1); average recovery 81%.

reactant | pGlu-Ala-Lys(Boc)-Ser-Gln-Gly-(D)-Leu-Ser-Asn-OBut | 450 mg | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C46H78N12O17
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | HCl | Cl | ClH
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Asp | N[C@@H](CC(O)=O)C(=O)O | C4H7NO4
reactant | Glu | N[C@@H](CCC(O)=O)C(=O)O | C5H9NO4
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
solvent | H2O | O | H2O
product | pGlu-Ala-Lys-Ser-Gln-Gly-(D)-Leu-Ser-Asn-OH | N1[C@@H](CCC1=O)C(=O)N[C@@H](C)C(=O)N[C@@H](CCCCN)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)NCC(=O)N[C@H](CC(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(N)=O)C(=O)O | C37H62N12O15
